US07553854B2
Step 2. Synthesis of N-(cyclohexylmethyl)-5-fluoro-6-methoxybenzo[d]thiazol-2-amine
To the solution of 5-fluoro-6-methoxybenzo[d]thiazol-2-amine (350 mg, 1.76 mmol, 1.0 eq) in 2 mL of NMP was added bromomethyl cyclohexane (370 μL, 2.65 mmol, 1.5 eq) and potassium carbonate (366 mg, 2.65 mmol, 1.5 eq) at room temperature. The reaction mixture was stirred at 80° C. for 24 hours with subsequent addition of reagents till reaction completion and thereafter quenched with saturated sodium bicarbonate solution (100 mL) which was then extracted with ethyl acetate (125 mL×3), combined organic layers dried over sodium sulfate, filtered and condensed under reduced pressure. Purification of the crude over ISCO using slow gradient of 0%-50% ethyl acetate-hexane gave 310 mg of product in 60% yield. LC/MS (m/z) [295.1] (MH+)

reactant | 5-fluoro-6-methoxybenzo[d]thiazol-2-amine | 1.76 mmol, 350 mg, 1.0 eq | FC=1C(=CC2=C(N=C(S2)N)C1)OC | C8H7FN2OS
reactant | bromomethyl cyclohexane | 2.65 mmol, 370 μL, 1.5 eq | BrCC1CCCCC1 | C7H13Br
reactant | potassium carbonate | 2.65 mmol, 366 mg, 1.5 eq | C([O-])([O-])=O.[K+].[K+]
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | N-(cyclohexylmethyl)-5-fluoro-6-methoxybenzo[d]thiazol-2-amine | 310 mg, 60% yield | C1(CCCCC1)CNC=1SC2=C(N1)C=C(C(=C2)OC)F | C15H19FN2OS
